US07494992B2
Preparation 22: 1,1-dimethylethyl 3,11-diazatricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carboxylate
To 3,11-diazatricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carbaldehyde (0.36 g, 64%) was added sodium hydroxide (0.80 g, 20 mmol) in dioxane (7 ml) and water (3 ml) and the reaction mixture was heated under reflux for 9 h. More sodium hydroxide (0.40 g, 10 mmol) was added and the reaction mixture was refluxed for a further 9 h. The reaction mixture was cooled, diluted with saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The organic extracts were dried and filtered and then di-tert-butyl dicarbonate (0.39 g, 1.83 mmol) was added and the reaction mixture was stirred for 2 h. The reaction mixture washed with brine, dried (Na2SO4) and concentrated to give an oil which was purified by flash chromatography eluting with ethyl acetate to give the title product (0.24 g).

reactant | 3,11-diazatricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carbaldehyde | 0.36 g | C12C3=NC=CC=C3CC(CN(C1)C=O)C2 | C12H14N2O
reactant | sodium hydroxide | 20 mmol, 0.80 g | [OH-].[Na+]
reactant | sodium hydroxide | 10 mmol, 0.40 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.83 mmol, 0.39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1,1-dimethylethyl 3,11-diazatricyclo[7.3.1.02,7]trideca-2,4,6-triene-11-carboxylate | 0.24 g | C12C3=NC=CC=C3CC(CN(C1)C(=O)OC(C)(C)C)C2 | C16H22N2O2
